US06391887B1
4-Amino-6-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 6-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (100 mg, 0.45 mmol) in 7N methanolic ammonia solution (15 ml) is reacted to form 59 mg (64%) of product.

reactant | 6-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.45 mmol, 100 mg | FC1=CC=CC=2C3C(C(NC12)=S)CCC3 | C12H12FNS
reactant | ammonia | 7N, 15 ml | N | H3N
product | 4-Amino-6-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 59 mg, 64% | NC1=NC=2C(=CC=CC2C2C1CCC2)F | C12H13FN2
